### PR TITLE
feat: Add `List.zipWithM` and `Array.zipWithM`

### PR DESCRIPTION
**Pull request by sgraf812**
This PR adds `List.zipWithM` and `Array.zipWithM`.

### CODE REVIEW

**Comment by sgraf812** [comment]
!bench

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 💥 Mathlib branch [lean-pr-testing-9528](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9528) build failed against this PR. (2025-07-25 10:04:28) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16518543239)
- ✅ Mathlib branch [lean-pr-testing-9528](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9528) has successfully built against this PR. (2025-07-25 18:23:37) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16527954055)

File: src/Init/Data/List/Control.lean [hunk 1]
```diff
@@ -104,6 +104,17 @@ def forA {m : Type u → Type v} [Applicative m] {α : Type w} (as : List α) (f
   | []      => pure ⟨⟩
   | a :: as => f a *> forA as f
 
+/--
+Applies a monadic action to the corresponding elements of two lists, left-to-right, stopping at the
+end of the shorter list. `zipWithM f as bs` is equivalent to `mapM id (zipWith f as bs)`.
+-/
+@[specialize]
+def zipWithM {m : Type u → Type v} [Monad m] {α : Type w} {β : Type x} {γ : Type u} (f : α → β → m γ) : (xs : List α) → (ys : List β) → m (List γ)
+  | x::xs, y::ys => do
```
Comment (Rob23oba) [inline src/Init/Data/List/Control.lean]: This should be tail-recursive; see `List.zipWithTR`

Comment (sgraf812) [reply src/Init/Data/List/Control.lean]: For `List.zipWith` we have

```
@[specialize] def zipWith (f : α → β → γ) : (xs : List α) → (ys : List β) → List γ
  | x::xs, y::ys => f x y :: zipWith f xs ys
  | _,     _     => []

@[inline] def zipWithTR (f : α → β → γ) (as : List α) (bs : List β) : List γ := go as bs #[] where
  /-- Auxiliary for `zipWith`: `zipWith.go f as bs acc = acc.toList ++ zipWith f as bs` -/
  go : List α → List β → Array γ → List γ
  | a::as, b::bs, acc => go as bs (acc.push (f a b))
  | _, _, acc => acc.toList

@[csimp] theorem zipWith_eq_zipWithTR : @zipWith = @zipWithTR := by
  funext α β γ f as bs
  let rec go : ∀ as bs acc, zipWithTR.go f as bs acc = acc.toList ++ as.zipWith f bs
    | [], _, acc | _::_, [], acc => by simp [zipWithTR.go, zipWith]
    | a::as, b::bs, acc => by simp [zipWithTR.go, zipWith, go as bs]
  exact (go as bs #[]).symm
```

I can certainly provide

```
@[inline] def zipWithMTR {m : Type u → Type v} [Monad m] {α : Type w} {β : Type x} {γ : Type u} (f : α → β → m γ) (as : List α) (bs : List β) : m (List γ) := go as bs #[] where
  /-- Auxiliary for `zipWithM`: `zipWithM.go f as bs acc = acc.toList ++ zipWithM f as bs` -/
  go : List α → List β → Array γ → m (List γ)
  | a::as, b::bs, acc => do go as bs (acc.push (← f a b))
  | _, _, acc => pure acc.toList
```

However, 
```
@[csimp] theorem zipWithM_eq_zipWithMTR : @zipWithM = @zipWithMTR := by
  funext m instMonad α β γ f as bs
  let rec go : ∀ as bs acc, zipWithMTR.go f as bs acc = do return acc.toList ++ (← as.zipWithM f bs)
    | [], _, acc | _::_, [], acc => by simp [zipWithMTR.go, zipWithM]
    | a::as, b::bs, acc => by simp [zipWithMTR.go, zipWithM, go as bs]
  exact (go as bs #[]).symm
```

is unprovable without `LawfulMonad`. I don't immediately see how to give the `csimp` theorem access to `LawfulMonad m`. Perhaps you do?

Comment (Rob23oba) [reply src/Init/Data/List/Control.lean]: Just use the tail-recursive variant for `zipWithM`; after all that's what's done for e.g. `mapM`. If you want to, you can add a `zipWithM'` analoguous to `mapM'` in `Init.Data.List.Monadic`.

Comment (sgraf812) [reply src/Init/Data/List/Control.lean]: Great, thanks!

**Comment by sgraf812** [comment]
!bench

File: src/Init/Data/List/Monadic.lean [hunk 2]
```diff
@@ -137,6 +137,43 @@ theorem filterMapM_loop_eq [Monad m] [LawfulMonad m] {f : α → m (Option β)}
     rw [filterMapM_loop_eq, filterMapM]
     simp
 
+/-! ### zipWithM -/
+
+/--
+Applies the monadic action `f` to the corresponding elements of two lists, left-to-right, stopping
+at the end of the shorter list. `zipWithM f as bs` is equivalent to `mapM id (zipWith f as bs)`
```
Comment (kim-em) [inline src/Init/Data/List/Monadic.lean]: doc-string refers to the unprimed version without explanation.

**Review by kim-em — APPROVED** [review]
